US06265409B1
e) (2S)-1-[2-(6-Bromonaphthyloxy)]-4-(3-pyridyl)-2-butanol
Prepared according to the method described in Example 1e) from cesium carbonate (13.7 g), 6bromo-2-naphthol (9.27 g) and a solution of (4S)-4-[2-(3-pyridyl)ethyl]-1,3-dioxin-2-one (7.3 g, Example 18d)) in dry N,N-dimethylformamide (100 ml) to give the title compound as beige crystals after recrystallisation from aqueous ethanol (9.14 g).

reactant | cesium carbonate | 13.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 6bromo-2-naphthol | 9.27 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (4S)-4-[2-(3-pyridyl)ethyl]-1,3-dioxin-2-one | 7.3 g | N1=CC(=CC=C1)CC[C@@H]1OC(OC=C1)=O | C11H11NO3
